US08937091B2
4-acryloylpyridine 8265
Pyridine (0.5 mL), acryloyl chloride (120 mg), and aluminium chloride (150 mg) were reacted in dichloromethane (1 mL) at from 0° C. to room temperature for 2 hours. The resultant was treated in the same manner as described in Example 1 to obtain the title compound (37.9 mg).

reactant | Pyridine | 0.5 mL | N1=CC=CC=C1 | C5H5N
reactant | acryloyl chloride | 120 mg | C(C=C)(=O)Cl | C3H3ClO
reactant | aluminium chloride | 150 mg | [Cl-].[Al+3].[Cl-].[Cl-]
solvent | dichloromethane | 1 mL | ClCCl | CH2Cl2
product | 4-acryloylpyridine | 37.9 mg | C(C=C)(=O)C1=CC=NC=C1 | C8H7NO
